US09193693B2
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylate (100 mg, 0.25 mmol, 1.00 equiv), sodium hydroxide (20 mg, 0.5 mmol, 2.00 equiv), and methanol/H2O (20/5 mL). The resulting solution was heated to reflux for 4 hrs and then concentrated to dryness. The residue was diluted with 15 mL water and acidified to pH=5 with 3N aq. HCl. The resulting solid was collected by filtration, washed with water, and dried to afford 65 mg (65%) of 3-(3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylic acid as an orange solid.

reactant | methyl 3-(3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylate | 0.25 mmol, 100 mg, 1.00 equiv | N1(CCCC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C25H21N3O2
reactant | sodium hydroxide | 0.5 mmol, 20 mg, 2.00 equiv | [OH-].[Na+]
solvent | methanol H2O | 5 mL | CO.O
product | 3-(3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylic acid | 65 mg, 65% | N1(CCCC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C24H19N3O2
